US08106190B2
Di-tert-butyl dicarbonate was added to a THF solution of 2-{[(1S,2S)-2-aminocyclohexyl]amino}-4-chlorobenzonitrile and triethylamine, followed by stirring at room temperature for 12 hours. By pot-treating the reaction liquid, tert-butyl {(1S,2S)-2-[(5-chloro-2-cyanophenyl)amino]cyclohexyl}carbamate was obtained.

reactant | Di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | C1CCOC1 | C4H8O
reactant | 2-{[(1S,2S)-2-aminocyclohexyl]amino}-4-chlorobenzonitrile | N[C@@H]1[C@H](CCCC1)NC1=C(C#N)C=CC(=C1)Cl | C13H16ClN3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | tert-butyl {(1S,2S)-2-[(5-chloro-2-cyanophenyl)amino]cyclohexyl}carbamate | ClC=1C=CC(=C(C1)N[C@@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)C#N | C18H24ClN3O2
